US06630004B1
Synthesis of Nα-(4-Aminophenyl)-L-lysine Trihydrochloride
0.40 g (1 mmol) of Nα-(4-nitrophenyl)-Nε-(benzyloxycarbonyl)-L-lysine is dissolved in 20 ml of ethanol, 5 ml of water and 0.5 ml (3.5 eq) of 5N hydrochloric acid in a 250 ml glass reactor (Paar apparatus). 0.5 g of palladium-on-charcoal (50% moisture and 10% active) is then introduced. The mixture is hydrogenated under a pressure of approximately 2.76×105 Pa for 45 minutes and at a temperature of 12° C. After filtration through celite, the filtrate is evaporated. The purplish oily residue is taken up in ethanol and precipitated from a large volume of acetone with stirring. After filtration, 0.3 g of a white crystalline powder is obtained, i.e. a final yield of 93%.

reactant | Nα-(4-nitrophenyl)-Nε-(benzyloxycarbonyl)-L-lysine | 1 mmol, 0.40 g | [N+](=O)([O-])C1=CC=C(C=C1)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C20H23N3O6
reactant | water | 5 ml | O | H2O
reactant | hydrochloric acid | 5N, 0.5 ml, 3.5 eq | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.5 g | [Pd] | Pd
product | Nα-(4-Aminophenyl)-L-lysine Trihydrochloride | 0.3 g, yield of 93% | Cl.Cl.Cl.NC1=CC=C(C=C1)N[C@@H](CCCCN)C(=O)O | InChI=1S/C12H19N3O2.3ClH/c13-8-2-1-3-11(12(16)17)15-10-6-4-9(14)5-7-10;;;/h4-7,11,15H,1-3,8,13-14H2,(H,16,17);3*1H/t11-;;;/m0.../s1
